US07550598B2
(Z)-4-(4-(4-aminophenylthio)quinolin-2(1H)-ylidene)-3-methyl-1H-pyrazol-5(4H)-one
The title compound was prepared from (Z)-4-(4-chloroquinolin-2(1H)-ylidene)-3-methyl-1H-pyrazol-5(4H)-one and 4-aminothiophenol using the procedure described in Example 6. 1H NMR (400 MHz, CHLOROFORM-D) δ ppm 1.97 (s, 3H) 6.77-6.79 (m, 3H) 7.33 (d, J=8.34 Hz, 2H) 7.64 (t, J=7.45 Hz, 1H) 7.88 (t, J=7.83 Hz, 1H) 7.96 (d, J=8.59 Hz, 1H) 8.14 (d, J=8.08 Hz, 1H); ESI-MS: m/z calc'd for C19H16N4OS 348.10. found 349.2 (M+H)+.

reactant | (Z)-4-(4-chloroquinolin-2(1H)-ylidene)-3-methyl-1H-pyrazol-5(4H)-one | ClC1=C/C(/NC2=CC=CC=C12)=C/1\C(=NNC1=O)C | C13H10ClN3O
reactant | 4-aminothiophenol | NC1=CC=C(C=C1)S | C6H7NS
product | (Z)-4-(4-(4-aminophenylthio)quinolin-2(1H)-ylidene)-3-methyl-1H-pyrazol-5(4H)-one | NC1=CC=C(C=C1)SC1=C/C(/NC2=CC=CC=C12)=C/1\C(=NNC1=O)C | C19H16N4OS
